US09382228B2
A −78° C. solution of 1-methoxycyclopentanecarboxamide (0.9 g, 6.29 mmol) in THF (40 mL), under Ar, was treated with LiHMDS (1M in THF, 8.17 mL, 8.17 mmol), stirred for 0.5 h, treated with a solution of isopropenyl chloroformate (0.824 mL, 7.54 mmol) in THF (5 mL), stirred at −78° C. for 15 min, warmed to RT and stirred for 1 h. The mixture was treated with satd. NH4Cl, the layers separated and the aqueous layer extracted with EtOAc (1×). The combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford crude prop-1-en-2-yl (1-methoxycyclopentanecarbonyl)carbamate (1.5 g, 105%) which was used without further purification. MS (ESI) m/z: 228.1 (M+H+).

reactant | 1-methoxycyclopentanecarboxamide | 6.29 mmol, 0.9 g | COC1(CCCC1)C(=O)N | C7H13NO2
reactant | LiHMDS | 8.17 mmol, 1M, 8.17 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | isopropenyl chloroformate | 7.54 mmol, 0.824 mL | ClC(=O)OC(=C)C | C4H5ClO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | prop-1-en-2-yl (1-methoxycyclopentanecarbonyl)carbamate | 1.5 g, 105% | COC1(CCCC1)C(=O)NC(OC(=C)C)=O | C11H17NO4
